US08034937B2
b) 1′-Benzyl-3-hydroxymethyl-2′,3′,5′,6′-tetrahydro-1′H-[2,4′]bipyridinyl-4′-ol
To a solution of 4.0 g (21 mmol) (2-bromo-pyridin-3-yl)-methanol in 105 ml dry tetrahydrofuran were added 22 ml (45 mmol) 2-propylmagnesium chloride solution (2.0 M in tetrahydrofuran). The reaction mixture was heated at reflux for 2 h. A solution of 3.8 g (21 mmol) 1-benzyl-4-piperidone in 22 ml tetrahydrofuran was added dropwise at a temperature of approximately 65° C. The reaction mixture was heated at reflux for 3 h and then quenched with water. The aqueous layer was basified to pH 9 with aqueous 1 M sodium hydroxide and extracted with three portions of ethyl acetate. The combined organic layers were washed with brine, dried over sodium sulfate and concentrated in vacuo. Flash-chromatography gave the title compound (1.1 g, 17%) as a brown solid.

reactant | (2-bromo-pyridin-3-yl)-methanol | 21 mmol, 4.0 g | BrC1=NC=CC=C1CO | C6H6BrNO
reactant | 2-propylmagnesium chloride | 45 mmol, 2.0 M, 22 ml | CC(C)[Mg]Cl
reactant | 1-benzyl-4-piperidone | 21 mmol, 3.8 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
solvent | tetrahydrofuran | 105 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 22 ml | O1CCCC1 | C4H8O
product | 1′-Benzyl-3-hydroxymethyl-2′,3′,5′,6′-tetrahydro-1′H-[2,4′]bipyridinyl-4′-ol | 1.1 g, 17% | C(C1=CC=CC=C1)N1CCC(CC1)(C1=NC=CC=C1CO)O | C18H22N2O2
